US04826866
5-Methyl-3-[(2-propenyl)amino]-1H-pyrazole-4-carboxylic acid, ethyl ester, hydrochloride[1:1]
A mixture of 26.24 g (0.2 mole) of 4-(2-propenyl)-3-thiosemicarbazide and 32.9 g (0.2 mole) of ethyl 2-chloroacetoacetate in 150 mL of absolute ethanol was stirred under nitrogen atmosphere for 1.5 hr, treated with 100 mL of 2N ethanolic hydrogen chloride and heated at reflux for 1.5 hr. The reaction mixture was stirred at ambient temperature for ~72 hr, heated to reflux and filtered to remove the amorphous sulfur. The filtrate was concentrated in vacuo to give a deep red oil which crystallized on trituration with acetone to give 29 g of product. Recrystallization from acetone gave 21 g of needle-like crystals with yellow. A second recrystallization from benzene gave 15.8 g of fine white needles, mp 133°-134° C. A rework of the filtrate from both recrystallizations gave an additional 7 g of crude product.

reactant | 4-(2-propenyl)-3-thiosemicarbazide | 0.2 mole, 26.24 g | C(C=C)NC(NN)=S | C4H9N3S
reactant | ethyl 2-chloroacetoacetate | 0.2 mole, 32.9 g | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
reactant | hydrogen chloride | 2N, 100 mL | Cl | ClH
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | 5-Methyl-3-[(2-propenyl)amino]-1H-pyrazole-4-carboxylic acid, ethyl ester, hydrochloride | 29 g | Cl.CC1=C(C(=NN1)NCC=C)C(=O)OCC | InChI=1S/C10H15N3O2.ClH/c1-4-6-11-9-8(7(3)12-13-9)10(14)15-5-2;/h4H,1,5-6H2,2-3H3,(H2,11,12,13);1H
